US04965257
2-Benzyloxymethyl-2-(2,2-dimethylpropyl)-propan-1,3-diol (5.5 g.) in dry diethyl ether (50 ml.) was added to liquid ammonia (200 ml.) at -70°. Sodium (2.5 g.) was added to the stirred solution. Stirring was maintained at -70°, for 1 hour. The mixture was allowed to warm up to -30° and solid ammonium chloride (15 g.) was added cautiously. The ammonia was removed from the reaction mixture under a current of nitrogen. Methanol (25 ml.) was added to the stirred mixture to destroy residual sodium. Dichloromethane (400 ml.) was added and the mixture was filtered. The filtrates were evaporated in vacuo. 2-(2,2-Dimethylpropyl)-2-hydroxymethyl-propan-1,3-diol was obtained as a colourless solid (3.5 g.).

reactant | 2-Benzyloxymethyl-2-(2,2-dimethylpropyl)-propan-1,3-diol | 5.5 g | C(C1=CC=CC=C1)OCC(CO)(CO)CC(C)(C)C | C16H26O3
reactant | ammonia | 200 ml | N | H3N
reactant | Sodium | 2.5 g | [Na] | Na
reactant | ammonium chloride | 15 g | [Cl-].[NH4+]
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-(2,2-Dimethylpropyl)-2-hydroxymethyl-propan-1,3-diol | CC(CC(CO)(CO)CO)(C)C | C9H20O3
